US06689806B1
2,4-Dimethyl-5-formyl-3-(2-methoxycarbonylethyl)pyrrole (0.23 g, 1.2 mmol) in 6N sodium hydroxide (10 mL) was heated at 100° C. for 2 hours. The reaction mixture was cooled to room temperature, acidified with 6 N hydrochloric acid and extracted three times with 10 mL of ethyl acetate. The combined organic layers were washed with 10 mL of water and 5 mL of brine, dried over anhydrous sodium sulfate and evaporated to dryness to give 230 mg (106% yield) of crude 4-carboxyethyl-3,5-dimethyl-2-formylpyrrole as a brown oil.

reactant | 2,4-Dimethyl-5-formyl-3-(2-methoxycarbonylethyl)pyrrole | 1.2 mmol, 0.23 g | CC=1NC(=C(C1CCC(=O)OC)C)C=O | C11H15NO3
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | sodium hydroxide | 6N, 10 mL | [OH-].[Na+]
product | 4-carboxyethyl-3,5-dimethyl-2-formylpyrrole | 230 mg, 106% yield | C(=O)(O)CCC=1C(=C(NC1C)C=O)C | C10H13NO3
